US06069145
(5R)-3-(3-Fluoro-4-{4-methyl-3-oxopiperazin-1-yl}phenyl)-5-hydroxymethyloxazolidin-2-one (900 mg) was dissolved in pyridine (20 ml), and cooled to 0° C. Triethylamine (0.5 ml) and methanesulfonyl chloride (0.24 ml) were added, and stirring continued at 5° C. for 2 hours. Solvent was evaporated, and the residue chromatographed on silica, using as eluant a gradient increasing in polarity from 0 to 3% methanol in dichloromethane. Relevant fractions were combined and evaporated to give (5R)-3-(3-fluoro-4-{4-methyl-3-oxopiperazin-1-yl}phenyl)-5-(methanesulfonyloxymethyl)oxazolidin-2-one (990 mg).

reactant | (5R)-3-(3-Fluoro-4-{4-methyl-3-oxopiperazin-1-yl}phenyl)-5-hydroxymethyloxazolidin-2-one | 900 mg | FC=1C=C(C=CC1N1CC(N(CC1)C)=O)N1C(O[C@H](C1)CO)=O | C15H18FN3O4
reactant | Triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.24 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | (5R)-3-(3-fluoro-4-{4-methyl-3-oxopiperazin-1-yl}phenyl)-5-(methanesulfonyloxymethyl)oxazolidin-2-one | 990 mg | FC=1C=C(C=CC1N1CC(N(CC1)C)=O)N1C(O[C@H](C1)COS(=O)(=O)C)=O | C16H20FN3O6S
